US07049438B2
A mixture of 7-fluoro-5-tetrahydropyran-4-yloxy-3,4-dihydroquinazolin-4-one (1 g), phosphoryl chloride (4 ml), diisopropylethylamine (1.5 ml) and 1,2-dichloroethane (15 ml) was stirred and heated to 80° C. for 3 hours. The mixture was evaporated to give 4-chloro-7-fluoro-5-tetrahydropyran-4-yloxyquinazoline which was used without further purification.

reactant | 7-fluoro-5-tetrahydropyran-4-yloxy-3,4-dihydroquinazolin-4-one | 1 g | FC1=CC(=C2C(NC=NC2=C1)=O)OC1CCOCC1 | C13H13FN2O3
reactant | phosphoryl chloride | 4 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | diisopropylethylamine | 1.5 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | 1,2-dichloroethane | 15 ml | ClCCCl | C2H4Cl2
product | 4-chloro-7-fluoro-5-tetrahydropyran-4-yloxyquinazoline | ClC1=NC=NC2=CC(=CC(=C12)OC1CCOCC1)F | C13H12ClFN2O2
